US20010027196A1
To a stirred solution of 400 mg (1.98 mmol) 2-amino-4-furan-2-yl-6-oxo-1,6-dihydro-pyrimidine-5-carbonitrile in 15 ml DMF were added 1.93 g (5.94 mmol) cesium carbonate and 847 mg (3.96 mmol) 2-(chloromethyl)quinoline hydrochloride and stirring continued for 16 h ours at 100° C. The reaction mixture was then concentrated in vacuo and the residue partitioned between ethyl acetate and water. The organic phase was dried over sodium sulfate and concentrated in vacuo. The residue was triturated in ether/methanol to afford 110 mg (16%) 2-amino-4-furan-2-yl-6-(quinolin-2-ylmethoxy)-pyrimidine-5-carbonitrile as an orange crystalline solid. ES-MS m/e (%): 344 (M+H+, 100).

reactant | 2-amino-4-furan-2-yl-6-oxo-1,6-dihydro-pyrimidine-5-carbonitrile | 1.98 mmol, 400 mg | NC=1NC(C(=C(N1)C=1OC=CC1)C#N)=O | C9H6N4O2
reactant | cesium carbonate | 5.94 mmol, 1.93 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-(chloromethyl)quinoline hydrochloride | 3.96 mmol, 847 mg | Cl.ClCC1=NC2=CC=CC=C2C=C1
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 2-amino-4-furan-2-yl-6-(quinolin-2-ylmethoxy)-pyrimidine-5-carbonitrile | 110 mg, 16% | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)OCC1=NC2=CC=CC=C2C=C1 | C19H13N5O2
